US06489476B1
A solution of 5-diethylphosphono-2-furaldehyde (1 mmole) in ethanol was treated with hydroxylamine (1.1 mmole) and sodium acetate (2.2 mmole) at 25° C. for 12 h. Extraction and chromatography gave 5-diethylphosphono-2-furaldehyde oxime.

reactant | 5-diethylphosphono-2-furaldehyde | 1 mmole | C(C)OP(=O)(OCC)C1=CC=C(O1)C=O | C9H13O5P
reactant | hydroxylamine | 1.1 mmole | NO | H3NO
reactant | sodium acetate | 2.2 mmole | C(C)(=O)[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 5-diethylphosphono-2-furaldehyde oxime | C(C)OP(=O)(OCC)C1=CC=C(O1)C=NO | C9H14NO5P
